US08536214B2
(R)-5-bromo-2,3-dihydro-1H-inden-2-amine((1S,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonate (7.88 mmol, 3.5 g) was suspended in DCM (40 mL) and DBU (23.63 mmol, 3.53 mL, 3.60 g) was added. The mixture was purged with nitrogen and cooled in an ice bath before dropwise addition of propane-2-sulfonyl chloride (15.75 mmol, 1.760 mL, 2.246 g). Stirring was continued at 0° C. for 1 h before allowing to come to room temperature. The mixture was diluted with DCM (100 mL) and 1N HCl (100 mL) and the phases mixed and separated. The aqueous phase was further extracted with DCM (2×100 mL) before combined organics were washed with brine. Concentration gave a light yellow oil which was purified on silica eluting with 75% DCM/heptane then neat DCM. Desired fractions were collected and concentrated to give (R)—N-(5-bromo-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide as a colourless oil (2.18 g, 87%). 1H NMR (400 MHz, CDCl3) δ 1.39 (d, 6H) 2.88 (m, 2H) 3.17 (sept, 1H) 3.28 (m, 2H) 4.27 (m, 2H) 7.08 (d, 1H) 7.30 (d, 1H) 7.35 (s, 1H)

reactant | (R)-5-bromo-2,3-dihydro-1H-inden-2-amine((1S,4R)-7,7-dimethyl-2-oxobicyclo[2.2.1]heptan-1-yl)methanesulfonate | 7.88 mmol, 3.5 g | CC1([C@@]2(C(C[C@H]1CC2)=O)CS(=O)(=O)O)C.BrC=2C=C1C[C@@H](CC1=CC2)N
reactant | DBU | 23.63 mmol, 3.53 mL, 3.60 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | propane-2-sulfonyl chloride | 15.75 mmol, 1.760 mL, 2.246 g | CC(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | 1N, 100 mL | Cl | ClH
product | (R)—N-(5-bromo-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 2.18 g, 87% | BrC=1C=C2C[C@@H](CC2=CC1)NS(=O)(=O)C(C)C | C12H16BrNO2S
